US05914402
Preparation of 1-(2-methyl-4-fluorphenyl)-4-oxo-6-methoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline
4-Oxo-6-methoxy-2,3-dihydrofuro[3,2-c]quinoline (217 mg, 1.0 mmol) was dissolved in 10 ml of diethylene glycol in a pressure tube and (278 μl, 2.5 mmol) of 4-fluor-2-methylaniline (278 μl, 2.5 mmol) was added under nitrogen. The reaction mixture was heated at 250° C. for 15 hours. The reaction mixture was diluted with 20 ml of salt water and the aqueous layer was extracted with methylene chloride (15 ml×3). After washing with water (15 ml×3), the organic layer was dried by anhydrous magnesium sulfate and filtered, and concentrated under reduced pressure. The residue was purified with ethyl acetate as eluent according to silica gel chromatography to obtain 256 mg of desired compound as solid in 79% of yield.

reactant | 4-Oxo-6-methoxy-2,3-dihydrofuro[3,2-c]quinoline | 1.0 mmol, 217 mg | O=C1N=C2C(=CC=CC2=C2C1CCO2)OC | C12H11NO3
reactant | 4-fluor-2-methylaniline | 2.5 mmol, 278 μl | FC1=CC(=C(N)C=C1)C | C7H8FN
solvent | diethylene glycol | 10 ml | C(COCCO)O | C4H10O3
solvent | water | O | H2O
product | 1-(2-methyl-4-fluorphenyl)-4-oxo-6-methoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline | 256 mg | CC1=C(C=CC(=C1)F)N1CCC=2C(NC=3C(=CC=CC3C21)OC)=O | C19H17FN2O2
